US07371747B2
Synthesis of (1S/R,3R/S,4R/S,6R/S)-N-(cyanomethyl)-4-({[4-(methylsulfanyl)phenyl]sulfanyl}-methyl)bicyclo[4.1.0]heptane-3-carboxamide
To a mixture of aminoacetonitrile hydrochloride (153 mg, 1.65 mmol) and benzotriazol-1-yloxy)tripyrrolidinophosphonium hexafluorophosphate (PyBOP) (800 mg, 1.54 mmol) was added 1S/R,3R/S,4R/S,6R/S)-4-({[4-(methylsulfanyl)phenyl]sulfanyl}methyl)bicyclo[4.1.0]-heptane-3-carboxylic acid and dimethylformamide (4 mL). After adding triethylamine (0.52 mL, 3.7 mmol) the reaction mixture was stirred at ambient temperature for 4 h. The reaction mixture was partitioned between water and ethyl acetate. The product was extracted into ethyl acetate and the combined organic phases were washed with saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate. The solvents were removed and the residue was chromatographed on a silica gel with methanol:dichloromethane (1.5:98.5) as eluent to give crude product which was purified in 1.4 mg portions by preparative RP HPLC (Waters, RCM, C18, μBondapak, 1×24 mm) by gradient elution with acetonitrile:water (containing 25 mM ammonium acetate)/30:70 to 50:50, 6.0 mL/min flowrate, UV detector set at 300 nM to give the title compound as a colorless solid. 1H NMR (500 MHz, acetone-d6): δ=7.83 (1H, br s), 7.28 (2H, d), 7.19 (2H, d), 4.20 (2H, m), 3.12 (1H, dd), 2.62 (1H, dd), 2.46 (3H, s), 2.26 (1H, m), 2.21 (1H, m), 2.10 (1H, m), 1.67 (1H, m), 1.58 (1H, m), 1.52 (1H, m), 0.99 (1H, m), 0.90 (1H, m), 0.57 (1H, m), −0.06 (1H, m). MS [ESI, (M−H)] m/z=345.2 amu.

reactant | aminoacetonitrile hydrochloride | 1.65 mmol, 153 mg | Cl.NCC#N
reactant | tripyrrolidinophosphonium hexafluorophosphate | 1.54 mmol, 800 mg | F[P-](F)(F)(F)(F)F.N1(CCCC1)[PH+](N1CCCC1)N1CCCC1
reactant | 4-({[4-(methylsulfanyl)phenyl]sulfanyl}methyl)bicyclo[4.1.0]-heptane-3-carboxylic acid | CSC1=CC=C(C=C1)SCC1C(CC2CC2C1)C(=O)O | C16H20O2S2
reactant | triethylamine | 3.7 mmol, 0.52 mL | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | N-(cyanomethyl)-4-({[4-(methylsulfanyl)phenyl]sulfanyl}-methyl)bicyclo[4.1.0]heptane-3-carboxamide | C(#N)CNC(=O)C1CC2CC2CC1CSC1=CC=C(C=C1)SC | C18H22N2OS2
